US07622583B2
A mixture of 4-chloro-N-[2-(2-chloro-5-nitro-benzoyl)-5-methyl-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (230 mg, 0.398 mmol) in 4 M HCl in dioxane (4 mL) and water (1 mL) was 50° C. for overnight. Reaction mixture was cooled to room temperature, evaporated to dryness and treated slowly with saturated aqueous NaHCO3 solution until pH 7-8. The mixture was extracted with EtOAc (2×25 mL), dried (anhydrous Na2SO4) and concentrated. The obtained residue was purified by flash chromatography (SiO2, 50% EtOAc-hexanes) to afford 4-chloro-N-[2-(2-chloro-5-nitro-benzoyl)-5-methyl-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide (136 mg) in 64% yield. ESMS m/z (relative intensity): 533.9 (M+H)+ (90), 555.9 (M+Na)+ (100).

reactant | 4-chloro-N-[2-(2-chloro-5-nitro-benzoyl)-5-methyl-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 0.398 mmol, 230 mg | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)C)C(C1=C(C=CC(=C1)[N+](=O)[O-])Cl)=O)C(F)(F)F | C22H16Cl2F3N3O6S
reactant | water | 1 mL | O | H2O
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 4-chloro-N-[2-(2-chloro-5-nitro-benzoyl)-5-methyl-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | 136 mg, 64% yield | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)C)C(C1=C(C=CC(=C1)[N+](=O)[O-])Cl)=O)C(F)(F)F | C20H12Cl2F3N3O5S
